US05157041
0.32 g of N2 -(benzyloxycarbonyl)-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide was dissolved in 5 ml of dry pyridine while stirring, cooled to 0° C. and treated dropwise with 0.82 ml of methanesulphonyl chloride. The solution was stirred at 0° C. for a further 2 hours. The mixture was poured into a mixture of ice and water which was then extracted with ethyl acetate. The combined organic extracts were washed with 2M hydrochloric acid and then with saturated sodium bicarbonate solution and subsequently dried over anhydrous sodium sulphate. After evaporation there was obtained 0.5 g of N2 -(benzyloxycarbonyl)-N1 -tert.butyl-4(S)-(methanesulphonyloxy)-L-prolinamide as an oil which was used without further purification.

reactant | N2 (benzyloxycarbonyl)-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide | 0.32 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@H](C1)O)C(C)(C)C)C(=O)N
reactant | methanesulphonyl chloride | 0.82 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N2 (benzyloxycarbonyl)-N1 -tert.butyl-4(S)-(methanesulphonyloxy)-L-prolinamide | 0.5 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@H](C1)OS(=O)(=O)C)C(C)(C)C)C(=O)N | InChI=1S/C18H26N2O6S.N2/c1-17(2,3)20-11-14(26-27(4,23)24)10-18(20,15(19)21)16(22)25-12-13-8-6-5-7-9-13;1-2/h5-9,14H,10-12H2,1-4H3,(H2,19,21);/t14-,18-;/m0./s1
